US07897631B2
To a 100 mL round-bottomed flask equipped with a magnetic stir was added trans-2-methyl-3-phenyl-2-propen-1-ol (2.00 g, 13.5 mmol) and 75 mL of methylene chloride. The solution was then cooled to 0° C. while stirring. Then, triethylamine (2.75 g, 27.0 mmol) is added followed by a dropwise addition of methanesulfonyl chloride (2.34 g, 20.4 mmol) and a two hour stir period. The reaction mixture is washed with water (2×75 mL), dried with sodium sulfate and then concentrated de vacuo. The crude mixture is then dissolved in 75 mL of DMF and then stirred via magnetic stir bar. To this mixture, sodium azide (1.76 g, 27.0 mmol) is added. The reaction mixture is then heated to 80° C. and allowed to stir for two hours. At this time, volatiles are concentrated de vacuo and the resulting residue is purified via column chromatography (1:9 ethyl acetate/hexane) providing (3-Azido-2-methyl propenyl)-benzene (2.08 g, 89%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.36-7.25 (m, 5H), δ 6.53 (s, 1H), δ 3.87 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 129.4, 129.2, 128.9, 128.6, 128.4, 127.1, 59.9, 52.0, 22.3, 16.5 ppm; LRMS (EI) calcd for C10H11N3 (M+) 173. found 173.

reactant | trans-2-methyl-3-phenyl-2-propen-1-ol | 13.5 mmol, 2.00 g | C/C(=C\C1=CC=CC=C1)/CO | C10H12O
reactant | triethylamine | 27.0 mmol, 2.75 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 20.4 mmol, 2.34 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 27.0 mmol, 1.76 g | [N-]=[N+]=[N-].[Na+]
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | (3-Azido-2-methyl propenyl)-benzene | 2.08 g, 89% | N(=[N+]=[N-])CC(=CC1=CC=CC=C1)C | C10H11N3
